US09085555B2
A. 1H-Indole-3-carboxylic acid benzyl ester
To a solution of 1H-indole-3-carboxylic acid (5 g, 31 mmol) in DMF (70 mL) under nitrogen atmosphere at 0° C. was added cesium carbonate (11 g, 31 mmol) and benzyl bromide (4.05 mL, 34.1 mmol). The reaction mixture was stirred at RT for 48 h and poured into water. EtOAc was added and the layers were separated, the aqueous one being back extracted three times with EtOAc. The combined organic layers were washed with water, dried over Na2SO4, filtered and concentrated. The residue was taken up in Et2O and the resulting precipitate was filtered-off to give the title compound. TLC, Rf (c-hexane/EtOAc 1:1)=0.55; MS (LC-MS): 252.1 [M+H]+, 274.0 [M+Na]+, 525.1 [2M+Na]+, 250.1 [M−H]−; tR (HPLC conditions a) 3.77 min.

reactant | 1H-indole-3-carboxylic acid | 31 mmol, 5 g | N1C=C(C2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | cesium carbonate | 31 mmol, 11 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzyl bromide | 34.1 mmol, 4.05 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1H-Indole-3-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)C1=CNC2=CC=CC=C12 | C16H13NO2
